* Reference schematic for inv_3v3 (issue #306).
*
* Hand-written independently of the layout -- see
* layout/harness/cell.py's docstring for why. Device sizes/nodes match
* design/inv_3v3.sch exactly.
*
* Run LVS with --lvs_sub=VSS (layout/run_pv.py's own default): the NMOS
* body ties to the deck's synthesized global substrate net, which this
* flag names VSS -- see layout/README.md's "substrate-net gotcha".

.subckt inv_3v3 A Y VDD VSS
M_MP Y A VDD VDD pfet_03v3 W=2.5u L=0.28u
M_MN Y A VSS VSS nfet_03v3 W=1u L=0.28u
.ends
