* Extracted by KLayout with GF180MCU LVS runset on : 08/09/2026 23:35

.SUBCKT inv_3v3 VSS VDD
M$1 VDD \$1 \$3 VDD pfet_03v3 L=0.28U W=2.5U AS=1.25P AD=1.25P PS=6U PD=6U
M$2 \$3 \$1 VSS VSS nfet_03v3 L=0.28U W=1U AS=0.5P AD=0.5P PS=3U PD=3U
.ENDS inv_3v3
